US04999130
A solution of 2.28 g(13.5 mM) of (-)-ethyl 2-cyano-2-methylpentanoate in 22 ml of dry tetrahydrofuran was added dropwise to a mixture of 1.14 mg (27.0 mM) of anhydrous lithium chloride and 1.02 mg (27.0 mM) of sodium borohydride under stirring at room temperature. Then, 44 ml of dry ethanol was added thereto, followed by 16 hours of reaction at room temperature. After the reaction, while the reaction mixture was cooled on an ice bath, 10% citric acid was added until the pH reached 4. A white solid recipitated at this time was separated by filtration, and the solvent was removed from the filtrate by reduced pressure distillation. Then, 5 ml of distilled water was added to the product, followed by extraction with dichloromethane. The resultant organic layer was dried on sodium sulfate, followed by distilling-off of the solvent under reduced pressure and further distillation to obtain 9.35 mg(10.6 mM) of (+)-2-cyano-2-methylpentanol. Yield:78.7%, b.p. 110° C.; [α]D -0.9 degree, [α]435 -1.6 degree (c1, CH2Cl2).

reactant | (-)-ethyl 2-cyano-2-methylpentanoate | 13.5 mM, 2.28 g | C(#N)C(C(=O)OCC)(CCC)C | C9H15NO2
reactant | lithium chloride | 27.0 mM, 1.14 mg | [Cl-].[Li+]
reactant | sodium borohydride | 27.0 mM, 1.02 mg | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
solvent | ethanol | 44 ml | C(C)O | C2H6O
product | (+)-2-cyano-2-methylpentanol | 10.6 mM, 9.35 mg, Yield:78.7% | C(#N)C(CO)(CCC)C | C7H13NO
